US08669234B2
To the solution of 3-Nitro-6H-benzo[c]chromene-8-carboxylic acid methyl ester (690 mg) in THF/DMF (5 ml/5 ml) was added acetic acid (10 ml), followed by slow addition of Zinc (800 mg). The mixture was stirred for 12 hours and solvents were removed under reduced pressure. The mixture was diluted with EtOAc, and 0.2 N sodium hydroxide solution was added until pH=10. The organic layer was separated and was washed with water and brine and dried with Na2SO4. Concentration and purification by flash column chromatography (DCM/EtOAc) gave 3-Amino-6H-benzo[c]chromene-8-carboxylic acid methyl ester (300 mg).

reactant | 3-Nitro-6H-benzo[c]chromene-8-carboxylic acid methyl ester | 690 mg | COC(=O)C=1C=CC2=C(COC3=CC(=CC=C23)[N+](=O)[O-])C1 | C15H11NO5
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | THF DMF | 5 ml | C1CCOC1.CN(C)C=O
catalyst | Zinc | 800 mg | [Zn] | Zn
product | 3-Amino-6H-benzo[c]chromene-8-carboxylic acid methyl ester | 300 mg | COC(=O)C=1C=CC2=C(COC3=CC(=CC=C23)N)C1 | C15H13NO3
